US08232312B2
tert.butyl [(1-benzoyl-2,3-dihydro-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-acetate
150 mg tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate are dissolved in 5 ml dichloromethane. 110 mg potassium carbonate and 45 μl benzoyl chloride are added, the mixture is stirred for 3 hours at ambient temperature and then divided between dichloromethane and water. The organic phase is washed with water and then dried on magnesium sulphate. The solvents are eliminated in vacuo.

reactant | tert.butyl [(3,5-dichloro-phenylsulphonyl)-(2,3-dihydro-1H-indol-5-yl)-amino]-acetate | 150 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)N(C=1C=C2CCNC2=CC1)CC(=O)OC(C)(C)C | C20H22Cl2N2O4S
reactant | potassium carbonate | 110 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl chloride | 45 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | tert.butyl [(1-benzoyl-2,3-dihydro-1H-indol-5-yl)-(3,5-dichloro-phenylsulphonyl)-amino]-acetate | C(C1=CC=CC=C1)(=O)N1CCC2=CC(=CC=C12)N(S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)CC(=O)OC(C)(C)C | C27H26Cl2N2O5S
